US08293798B2
2-Chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoic acid
A solution of (3-chlorophenyl)methyl 2-chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoate (970 mg, 2.3 mmol) in dioxane (30 ml) and water (15 ml) was treated with lithium hydroxide (monohydrate) (145 mg, 3.5 mmol, 1.5 eq). The resulting mixture was stirred at room temperature for 2 hours. The solvent was then evaporated in vacuo, the residue take up into water (50 ml) and washed with ether (100 ml). The aqueous layer was then acidified with 2M HCl the extracted with ether (2×150 ml). Organic layers combined, washed with brine, dried and evaporated in vacuo to afford the title product as a white solid (600 mg). MS (ES−) m/z 295 [M−H]− (C14H1035Cl2O3). 1H-NMR (400 MHz, d6-DMSO) δ 5.17 (2H,s), 7.17-7.20 (1H, m), 7.38-7.53 (6H,m), 13.4 (1H, s).

reactant | (3-chlorophenyl)methyl 2-chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoate | 2.3 mmol, 970 mg | ClC1=C(C(=O)OCC2=CC(=CC=C2)Cl)C=C(C=C1)OCC1=CC(=CC=C1)Cl | C21H15Cl3O3
reactant | lithium hydroxide | 3.5 mmol, 145 mg, 1.5 eq | [OH-].[Li+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
product | 2-Chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoic acid | 600 mg | ClC1=C(C(=O)O)C=C(C=C1)OCC1=CC(=CC=C1)Cl | C14H10Cl2O3
